US20010036958A1
2,5-Dichloro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide 2,5-Dichloro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 2,5-dichlorobenzenesulfonyl chloride according to the procedures described in Example 25b. The crude product was purified by recrystallization from ethyl acetate/hexanes to give a yellow powder, m.p. 148-150° C., yield 53%.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 2,5-dichlorobenzenesulfonyl chloride | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 2,5-Dichloro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide 2,5-Dichloro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | yield 53% | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)NC1=C(C(=NO1)C)Br.ClC1=C(C=C(C=C1)Cl)S(=O)(=O)NC1=C(C(=NO1)C)Br | 2C10H7BrCl2N2O3S
